US07524969B2
Preparation of 4-chloro-N-{5-[2,2,2,-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]1,3-thiazol-2yl}benzenesulfonamide
To a solution of (2-amino-1,3-thiazol-5-yl)-1,1,1,3,3,3-hexafluoropropan-2-ol (79.8 mg 0.3 mmol) from step 1 of example 1-1-1 in pyridine (1 ml) was added 4-chlorobenzensulfonyl chloride 63.3 mg (0.3 mmol). The reaction mixture was stirred at r.t. for 24 h. Pyridine was removed under reduced pressure to yield the residue, which was washed with 1N HCl to give a light brown solid. The solid was washed by water, saturated NaHCO3, brine, and dried by vacuum. Further purification by preparative TLC (CHCl3:CH3OH, 90:10) afforded the title compound as a white solid (38.2 mg). 1H NMR (DMSO-d6) δ7.55 (s, 1H), 7.60 (d, 2H), 7.78 (d, 2H), 9.50 (s, 1H), 13.2 (brs, 1H); ESIMS: m/z 439 (M−H).

reactant | (2-amino-1,3-thiazol-5-yl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.3 mmol, 79.8 mg | NC=1SC(=CN1)C(C(F)(F)F)(C(F)(F)F)O | C6H4F6N2OS
reactant | 4-chlorobenzensulfonyl chloride | 0.3 mmol, 63.3 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 4-chloro-N-{5-[2,2,2,-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]1,3-thiazol-2yl}benzenesulfonamide | 38.2 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC=1SC(=CN1)C(C(F)(F)F)(C(F)(F)F)O | C12H7ClF6N2O3S2
